US20010016659A1
A solution of methyl 3-methoxy-2-naphthoate (6.28 g, 29.10 imnol) and water (10 mL) in MeOH (100 mL) at room temp. was treated with a 1 N NaOH solution (33.4 mL, 33.4 nunol). The mixture was heated at the reflux temp. for 3 h, cooled to room temp., and made acidic with a 10% citric acid solution. The resulting solution was extracted with EtOAc (2×100 mL). The combined organic layers were washed with a saturated NaCl solution, dried (MgSO4) and concentrated under reduced pressure. The residue was triturated with hexane then washed several times with hexane to give 3-methoxy-2-naphthoic acid as a white solid (5.40 g, 92%): 1H-NMR (DMSO-d6) δ3.88 (s, 3H), 7.34-7.41 (m, 2H), 7.49-7.54 (m, 1H), 7.83 (d, J=8.09 Hz, 1H), 7.91 (d, J=8.09 Hz, 1H), 8.19 (s, 1H), 12.83 (br s, 1H).

reactant | methyl 3-methoxy-2-naphthoate | 6.28 g | COC=1C(=CC2=CC=CC=C2C1)C(=O)OC | C13H12O3
reactant | water | 10 mL | O | H2O
reactant | NaOH | 1 N, 33.4 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | MeOH | 100 mL | CO | CH4O
product | 3-methoxy-2-naphthoic acid | 5.40 g, 92% | COC=1C(=CC2=CC=CC=C2C1)C(=O)O | C12H10O3
